US07056918B2
B) 5-[3-((3R)-1-Benzyl-pyrrolidin-3-yl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one
To a flask charged with 5-[((3R)-1-Benzyl-pyrrolidin-3-ylimino)-methyl]-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one was added a stir bar and 4-methylphenyl-toylsulfonomethylisocyanide (326 mg, 1.15 mmoles) (Joseph Sisko, Mark Mellinger, Peter W. Sheldrake, and Neil H. Baine, Organic Synthesis, Vol. 77, 198–205 (1999); Joseph Sisko, Mark Mellinger, Peter W. Sheldrake, and Neil H. Baine, Tetrahedron Letters, Vol. 37, No. 45, 8113–8116, (1996); U.S. Pat. No. 5,756,499; prepared in an analogous manner starting with 3-methylbenzylaldehyde). N,N-dimethylformamide (2 mL, 0.58 M) was added and within 5 minutes a light yellow solution was obtained. To this stirred solution was added MP-carbonate (498 mg, 1.37 mmoles) (Argonaut Tech); the flask was sealed with a plastic cap and the mixture was stirred for 40 hours. The mixture was filtered into a separatory funnel with ethyl acetate. The ethyl acetate layer was extracted with 3 N HCl (3 times). The aqueous extracts were made basic to approximately pH 9.5 with solid potassium carbonate. The basic mixture was extracted with ethyl acetate (3 times). These ethyl acetate extracts were washed with water (2 times), dried with sodium sulfate, filtered and the filtrate was concentrated to give a yellow oil. This oil was purified by flash chromatography (95:5 ethyl acetate/methyl alcohol) to give 240 mg of the named compound as a light yellow foam/gum.

reactant | 5-[((3R)-1-Benzyl-pyrrolidin-3-ylimino)-methyl]-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one | C(C1=CC=CC=C1)N1C[C@@H](CC1)N=CC1=CC2=C(N(C(N2CC)=O)CC)C=C1 | C23H28N4O
reactant | carbonate | 1.37 mmoles, 498 mg | C([O-])([O-])=O
reactant | N,N-dimethylformamide | 0.58 M, 2 mL | CN(C=O)C | C3H7NO
product | 5-[3-((3R)-1-Benzyl-pyrrolidin-3-yl)-5-m-tolyl-3H-imidazol-4-yl]-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one | 240 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N1C=NC(=C1C1=CC2=C(N(C(N2CC)=O)CC)C=C1)C=1C=C(C=CC1)C | C32H35N5O
